US05354885
SYNTHESIS OF L-DOPA ETHYL ESTER
Levodopa (50 g.) was added in portions to a cooled (2-8° C.) solution of 30 ml. thionyl chloride in 250 ml. absolute ethanol. The resulting mixture was heated to 40° C. for 16 hours and then the volatiles were removed in vacuo. The residue was dissolved in 50 ml. of water and diluted with a solution of 20 g. of sodium bicarbonate, 26 g. of sodium sulfate and 50 mg. of ascorbic acid in 400 ml. of water. The pH of the resulting solution was carefully adjusted to pH 7 with 10% aqueous sodium hydroxide and it was extracted with deaerated free ethyl acetate containing 0.01% BHT.

reactant | Levodopa | 50 g | C1=CC(=C(C=C1C[C@@H](C(=O)O)N)O)O | C9H11NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | C(C)O | C2H6O
product | L-DOPA ETHYL ESTER | CCOC(=O)[C@H](CC1=CC(=C(C=C1)O)O)N | C11H15NO4
